US07312330B2
B. N-(4-(Difluoromethoxy)phenyl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-amine
7-Benzyl-N-(4-(difluoromethoxy)phenyl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-amine (1.01 g, 2.65 mmol), ammonium formate (1.67 g, 26.46 mmol) and palladium, 10% wt. on activated carbon (100 mg) in methanol (20 mL) was heated to 60° C. for 1 h. The mixture was cooled to r.t. and filtered over celite. The filtrate was concentrated under reduced pressure to give a white solid which was taken up in saturated aqueous sodium bicarbonate. The mixture was extracted three times with ethyl acetate. The combined organic extracts were washed with brine, dried over sodium sulfate and concentrated to dryness to give 0.82 g of a tan solid. The compound was further purified by silica gel chromatography using a gradient of methanol:chloroform (0-20%) to give the desired compound as an white solid.

reactant | 7-Benzyl-N-(4-(difluoromethoxy)phenyl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-amine | 2.65 mmol, 1.01 g | C(C1=CC=CC=C1)N1CC=2N=CN=C(C2CC1)NC1=CC=C(C=C1)OC(F)F | C21H20F2N4O
reactant | ammonium formate | 26.46 mmol, 1.67 g | C(=O)[O-].[NH4+]
solvent | methanol | 20 mL | CO | CH4O
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | palladium | [Pd] | Pd
product | N-(4-(Difluoromethoxy)phenyl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-amine | 0.82 g | FC(OC1=CC=C(C=C1)NC=1C2=C(N=CN1)CNCC2)F | C14H14F2N4O
